US09169254B2
Isobutyl chloroformate (0.152 ml, 1.17 mmol) was added to a solution of 4-bromo-benzylamine hydrochloride (200 mg, 0.899 mmol) and pyridine (0.182 ml, 2.25 mmol) in DMF (2.0 ml), and the mixture was stirred at room temperature for 1.5 hours. A 1 N aqueous HCl solution was added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer was sequentially washed with water and saturated brine and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (dichloromethane-ethyl acetate) to give (4-bromo-benzyl)-carbamic acid isobutyl ester (180 mg, 70%).

reactant | Isobutyl chloroformate | 1.17 mmol, 0.152 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 4-bromo-benzylamine hydrochloride | 0.899 mmol, 200 mg | Cl.BrC1=CC=C(CN)C=C1
reactant | pyridine | 2.25 mmol, 0.182 ml | N1=CC=CC=C1 | C5H5N
reactant | HCl | 1 N | Cl | ClH
solvent | DMF | 2.0 ml | CN(C)C=O | C3H7NO
product | (4-bromo-benzyl)-carbamic acid isobutyl ester | 180 mg, 70% | C(C(C)C)OC(NCC1=CC=C(C=C1)Br)=O | C12H16BrNO2
